US07314888B1
In 30 ml of tetrahydrofuran is suspended 0.92 g of 60% sodium hydride. After dropping 5.0 ml of ethyl diethylphosphonoacetate thereinto at ambient temperature over a period of 5 minutes, the mixture thus obtained is stirred at 40° C. for 30 minutes. Then, a solution of 3.40 g of 2-isobutoxybenzaldehyde in 20 ml of tetrahydrofuran is dropwise added at ambient temperature over a period of 20 minutes, and the mixture thus obtained is stirred for one hour. The reaction mixture is added to a mixture of ethyl acetate and water, and the organic layer is separated. The organic layer thus obtained is washed with water and saturated aqueous solution of sodium chloride and dried over anhydrous magnesium sulfate, and then the solvent is distilled off under reduced pressure. The residue thus obtained is purified by silica gel column chromatography (eluent; n-hexane:ethyl acetate=9:1) to obtain 4.30 g of ethyl 3-(2-isobutoxyphenyl)-2-propenoate as a light yellow oily product.

reactant | sodium hydride | 0.92 g | [H-].[Na+]
reactant | ethyl diethylphosphonoacetate | 5.0 ml | C(C)OP(=O)(OCC)CC(=O)OCC | C8H17O5P
reactant | 2-isobutoxybenzaldehyde | 3.40 g | C(C(C)C)OC1=C(C=O)C=CC=C1 | C11H14O2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | ethyl 3-(2-isobutoxyphenyl)-2-propenoate | 4.30 g | C(C(C)C)OC1=C(C=CC=C1)C=CC(=O)OCC | C15H20O3
